US04267179
A mixture of 4 parts of N-(4-nitrophenyl)hydrazinecarboxamide, 5 parts of ethanimidamide hydrochloride and 5 parts of sodium acetate is stirred and heated for 4 hours at 140° C. The reaction mixture is cooled, water is added and the whole is stirred till the product is crystallized. It is filtered off and recrystallized from 2-propanol, yielding 1.5 parts (34%) of 2,4-dihydro-5-methyl-4-(4-nitrophenyl)-3H-1,2,4-triazol-3-one; mp. 226.1° C.

reactant | N-(4-nitrophenyl)hydrazinecarboxamide | [N+](=O)([O-])C1=CC=C(C=C1)NC(=O)NN | C7H8N4O3
reactant | ethanimidamide hydrochloride | Cl.C(C)(N)=N
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | 2,4-dihydro-5-methyl-4-(4-nitrophenyl)-3H-1,2,4-triazol-3-one | 34% | CC=1N(C(NN1)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C9H8N4O3
